US09034900B2
Step 5: N-[4-(cyclopropylmethoxy)-3-(6-methyl-7-oxofuro[2,3-c]pyridin-4-yl)phenyl]ethanesulfonamide
A mixture of N-[4-(cyclopropylmethoxy)-3-(tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethane-1-sulfonamide (138 mg, 0.38 mmol), 4-bromo-6-methyl-6H,7H-furo[2,3-c]pyridin-7-one (75 mg, 0.33 mmol), K3PO4 (175 mg, 0.83 mmol), Pd(dppf)Cl2 (24 mg, 10%) in dioxane (2.2 mL) and H2O (200 uL) was bubbled with nitrogen for 5 min. The sealed vial was stirred at 70° C. for 4 h. After the reaction mixture was filtered through a short plug of celite, the celite plug was washed with EtOAc (15 mL). The filtrate was washed with water and brine; the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford a tan residue. The resulting residue was purified by prep-HPLC to afford the title compound (21 mg, 16%) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.15-0.28 (m, 2H) 0.35-0.52 (m, 2H) 0.95-1.13 (m, 1H) 1.14-1.26 (m, 3H) 2.98-3.09 (m, 2H) 3.57-3.65 (m, 3H) 3.77-3.87 (m, 2H) 7.04-7.22 (m, 3H) 7.55-7.64 (m, 1H) 8.05-8.17 (m, 1H) 9.49-9.57 (m, 1H). LCMS (M+H)+=403.

reactant | N-[4-(cyclopropylmethoxy)-3-(tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethane-1-sulfonamide | 0.38 mmol, 138 mg | C1(CC1)COC1=C(C=C(C=C1)NS(=O)(=O)CC)B1OC(C(O1)(C)C)(C)C | C18H28BNO5S
reactant | 4-bromo-6-methyl-6H,7H-furo[2,3-c]pyridin-7-one | 0.33 mmol, 75 mg | BrC=1C2=C(C(N(C1)C)=O)OC=C2 | C8H6BrNO2
reactant | K3PO4 | 0.83 mmol, 175 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2.2 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 200 uL | O | H2O
catalyst | Pd(dppf)Cl2 | 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[4-(cyclopropylmethoxy)-3-(6-methyl-7-oxofuro[2,3-c]pyridin-4-yl)phenyl]ethanesulfonamide | 21 mg, 16% | C1(CC1)COC1=C(C=C(C=C1)NS(=O)(=O)CC)C=1C2=C(C(N(C1)C)=O)OC=C2 | C20H22N2O5S
